US06797725B2
3-[1-(3,5-Dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 3-(dimethoxy-phosphonooxy)-propyl ester was prepared using the same protocol for synthesizing 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-(dimethoxy-phosphonooxy)-ethyl ester by replacing 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-hydroxy-ethyl ester with 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 3-hydroxy-propyl ester with a yield of (31%). 1H NMR (400 MHz, CDCl3) δ 12.63 (s, br, 1H, NH-1′), 7.82-7.84 (m, 1H, H-4), 7.48-7.52 (m, 1H, H-7), 7.41 (s, 1H, H-vinyl), 7.17-7.24 (m, 2H, H-5, 6), 6.04 (s, br, 1H, H-4′), 4.61 (t, J=6.25 Hz, 2H, NCOOCH2CH2CH2OPO(OCH3)2-1), 4.31 (q, J=6.38, 10.94 Hz, 2H, NCOOCH2CH2CH2OPO(OCH3)2-1), 3.80 (s, 3H, NCOOCH2CH2CH2OPO(OCH3)2-1), 3.77 (s, 3H, NCOOCH2CH2CH2OPO(OCH3)2-1), 2.40 (s, 3H, CH3), 2.35 (s, 3H, CH3), and 2.23-2.29 (m, 2H, NCOOCH2CH2CH2OPO(OCH3)2-1). 13P NMR (162 MHz, CDCl3) δ 2.40.

reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-(dimethoxy-phosphonooxy)-ethyl ester | COOP(=O)(OOC)OCCOC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C20H23N2O9P
reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 3-hydroxy-propyl ester | OCCCOC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C19H20N2O4
product | 3-[1-(3,5-Dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 3-(dimethoxy-phosphonooxy)-propyl ester | COOP(=O)(OOC)OCCCOC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C21H25N2O9P
